US07858646B2
Synthesis of 6-(3-(hydroxymethyl)phenylthio)nicotinonitrile
Using the method of Preparation 155 using (3-mercaptophenyl)methanol (10.0 g, 71.3 mmol) and 6-chloronicotinonitrile (19.8 g, 142.7 mmol) affords the title compound (13.1 g, 76%): 243 (M+H, 100%).

reactant | (3-mercaptophenyl)methanol | 71.3 mmol, 10.0 g | SC=1C=C(C=CC1)CO | C7H8OS
reactant | 6-chloronicotinonitrile | 142.7 mmol, 19.8 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
product | 6-(3-(hydroxymethyl)phenylthio)nicotinonitrile | 13.1 g, 76% | OCC=1C=C(C=CC1)SC1=NC=C(C#N)C=C1 | C13H10N2OS
